US04851413
1,4-Dimethoxy-2,3,5-trimethylbenzene, 9.00 g (50 mmole), was dissolved in CH2Cl2 (60 ml) and stirred with ice-cooling. After addition of 14.4 g (50×2.5 mmole) of dichloromethyl methyl ether, 13.8 ml (50×2.5 mmole) of titanium tetrachloride dissolved in CH2Cl2 (30 ml) was added dropwise over 15 minutes. After stirring for further 15 minutes with ice-cooling, the ice bath was removed and the mixture was stirred at room temperature for 4 hours. The reaction mixture was poured into crashed ice (about 200 g) and stirred vigorously for 30 minutes. The CH2Cl2 layer was washed with water (3 times), and dried (MgSO4), from which CH2Cl2 was evaporated off. The residue was recrystallized from isopropyl ether/hexane (1:1), to give 6.18 g of 2,5-dimethoxy-3,4,6-trimethylbenzaldehyde. The mother liquor was concentrated, and the residue was purified with silica gel (60 g) column chromatography (eluted with isopropyl ether), to give 3.70 g of 2,5-dimethoxy-3,4,6-trimethylbenzaldehyde. Yield 9.88 g (95%), m.p. 85°-86° C.

reactant | 1,4-Dimethoxy-2,3,5-trimethylbenzene | COC1=C(C(=C(C(=C1)C)OC)C)C | C11H16O2
reactant | dichloromethyl methyl ether | 2.5 mmole, 14.4 g | COC(Cl)Cl | C2H4Cl2O
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 2.5 mmole, 13.8 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2,5-dimethoxy-3,4,6-trimethylbenzaldehyde | 6.18 g | COC1=C(C=O)C(=C(C(=C1C)C)OC)C | C12H16O3
